US09085540B2
Under an argon atmosphere, to a mixture of 5-(3-bromo-5-nitrophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (312 mg), zinc powder (19 mg), biphenyl-2-yl (di-tert-butyl)phosphine (40 mg), zinc (II) cyanide (66 mg), and N,N-dimethylacetamide (6.13 mL) was added palladium trifluoroacetate (II) (20 mg), followed by heating at 100° C. for 4 hours. After leaving to be cooled, to the reactant was added water, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1) to obtain 5-(3-cyano-5-nitrophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (250 mg) as a red solid.

reactant | 5-(3-bromo-5-nitrophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 312 mg | BrC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=C(C1)[N+](=O)[O-] | C24H26BrN7O4
reactant | biphenyl-2-yl (di-tert-butyl)phosphine | 40 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | N,N-dimethylacetamide | 6.13 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc | 19 mg | [Zn] | Zn
catalyst | zinc (II) cyanide | 66 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium trifluoroacetate | 20 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
solvent | water | O | H2O
product | 5-(3-cyano-5-nitrophenoxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 250 mg | C(#N)C=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=C(C1)[N+](=O)[O-] | C25H26N8O4
